* gnetlist -g spice-sdb -o thing.net thing.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
.tran 1n 52u .9u
.print tran cr
V1 vin 0 ac 1 Pulse(0 13 1us 0 0 0 0)
C1 cr lc 10pF  
L1 lc vin 10mH 
R1 0 cr 2.5Meg  
.end
